US06211234B1
A solution of ethyl (RS)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)-4-(2-chloro-6-fluorophenyl)butanoate (360 mg) in methanol (10 mL) containing 1 N sodium hydroxide (3 mL) is stirred at ambient temperature for 16 hours. The reaction mixture is poured into 0.5 N HCl (20 mL) and extracted twice with ethyl acetate (20 mL). The combined organic phases are washed with brine (20 mL), dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a dark yellow oil. Crystallisation from a mixture of cyclohexane and ethyl acetate gives (RS)-4-(2-chloro-6-fluorophenyl)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)-butanoic acid (210 mg) in the form of a beige solid, m.p. 128-130° C.

reactant | ethyl (RS)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)-4-(2-chloro-6-fluorophenyl)butanoate | 360 mg | C(#N)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2F)Cl)C=C(C=C1)OCC1=CSC=C1 | C24H21ClFNO4S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | HCl | 0.5 N, 20 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (RS)-4-(2-chloro-6-fluorophenyl)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)-butanoic acid | 210 mg | ClC1=C(C(=CC=C1)F)C(CCC(=O)O)OC1=C(C=CC(=C1)OCC1=CSC=C1)C#N | C22H17ClFNO4S
